US06828460B2
tert-Butyl (4-{4-[2,4-bis(methoxymethoxy)phenyl]cyclohexyl}phenoxy) Dimethyl Silane
To a round bottomed flask equipped with magnetic stirrer was added tert-butyl (4-{4-[2,4-bis(methoxymethoxy)phenyl]-3-cyclohexen-1-yl}phenoxy) dimethylsilane (118 mg, 0.24 mmol) and ethanol (15 ml). To the stirred solution, palladium (catalytic amount, 10% on activated carbon) was added in one portion. The reaction vessel was then evacuated and placed under an atmosphere of hydrogen. This process was repeated for 10 cycles before leaving under a hydrogen atmosphere. The reaction mixture was stirred vigorously for 17 hr then filtered through celite, washing with ethyl acetate. The filtrate was concentrated in vacuo affording the title compound as a colourless oil (118 mg, 100%) and a mixture of diastereoisomers. δH(CDCl3) 0.15 (6H, s), 0.92 (9H, s), 1.51 (2H, m), 1.63 (2H, m), 1.81 (2H, m), 1.94 (2H, m), 2.43 and 2.90 (1H, m), 2.84 and 3.02 (1H, m), 3.38 and 3.39 (3H, s), 3.40 (2×1.5H, s), 5.04 and 5.06 (2H, s), 5.08 and 5.10 (2H, s), 6.56 and 6.61 (1H, m), 6.70 (3H, m), 7.03 (2H, m), 7.11 (1H, d).

reactant | tert-butyl (4-{4-[2,4-bis(methoxymethoxy)phenyl]-3-cyclohexen-1-yl}phenoxy) dimethylsilane | 0.24 mmol, 118 mg | C(C)(C)(C)[Si](C)(C)OC1=CC=C(C=C1)C1CC=C(CC1)C1=C(C=C(C=C1)OCOC)OCOC | C28H40O5Si
catalyst | palladium | [Pd] | Pd
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | tert-Butyl (4-{4-[2,4-bis(methoxymethoxy)phenyl]cyclohexyl}phenoxy) Dimethyl Silane | 118 mg, 100% | C(C)(C)(C)[Si](C)(C)OC1=CC=C(C=C1)C1CCC(CC1)C1=C(C=C(C=C1)OCOC)OCOC | C28H42O5Si
